US08431603B2
Ethyl 4-amino-3-chloro-5-methoxybenzoate
After adding acetonitrile (170 mL) and N-chlorosuccinimide (13.4 g, 100 mmol) to ethyl 4-amino-3-methoxybenzoate (17.8 g, 91.2 mmol) in that order, the mixture was stirred at 60° C. for 2 hours. The mixture was returned to room temperature, and the solvent in the mixture was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (mixture of n-heptane and ethyl acetate: n-heptane/ethyl acetate=8/1 then 4/1) to obtain the title compound (15.8 g, 68.8 mmol).

reactant | acetonitrile | 170 mL | C(C)#N | C2H3N
reactant | N-chlorosuccinimide | 100 mmol, 13.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ethyl 4-amino-3-methoxybenzoate | 91.2 mmol, 17.8 g | NC1=C(C=C(C(=O)OCC)C=C1)OC | C10H13NO3
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | Ethyl 4-amino-3-chloro-5-methoxybenzoate | 68.8 mmol, 15.8 g | NC1=C(C=C(C(=O)OCC)C=C1OC)Cl | C10H12ClNO3
